US05873943
A commercially available aqueous solution of high purity maltose (mfd. by NIHON SHOKUHIN KAKO K.K., concentration: 60%, sugar composition in the solid component: maltose: 81.6%, glucose: 1.5%, sugar of equal or more than DP3: 16.9%) was reduced under the existence of Raney nickel catalyst at a hydrogen pressure of 100 kg/cm2 and 130° C. for 120 minutes, to obtain aqueous solution of maltitol.

reactant | maltose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@@H]2[C@H](O[C@H]([C@@H]([C@H]2O)O)O)CO)O)O)O)O | C12H22O11
reactant | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | [Ni] | Ni
product | maltitol | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@H]([C@@H](CO)O)[C@@H]([C@H](CO)O)O)O)O)O)O | C12H24O11
